US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-[2-[(2-methylphenylsulfonyl)aminocarbonyl]ethylthio]-6,11-dihydrodibenz[B,e]oxepine: (Exemplary compound 223)
11-(2-Carboxyethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine and 2-methylbenzenesulfonamide were used and reacted in the same manner as in Example 39 to obtain the title compound.

reactant | 11-(2-Carboxyethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C27H22ClNO4S
reactant | 2-methylbenzenesulfonamide | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-[2-[(2-methylphenylsulfonyl)aminocarbonyl]ethylthio]-6,11-dihydrodibenz[B,e]oxepine | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2SCCC(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=CC=C3)C=C1 | C34H29ClN2O5S2
